*********
*SRC=Inverterx;Inverterx;Behavioral;Amplifiers;Inverter with smooth limits
*SYM=inverterx
.SUBCKT Inverterx IN OUT { Threshold=1.2 Width=.3 VHI=3.5 VLO=.35 }
* Threshold is the Value V(IN) at which the output reaches its mid-point
* Width is the transition region width in input units
* VHI is the output hi limit
* VLO is the output low limit
*FAMILY = ANALOG
*FAMILY = ANALOG
B1 OUT 0 V={VHI-VLO}* ( V(IN)  < {Threshold - Width/2} ? 1 : v(IN) < {Threshold+Width/2} ? 
+  0.5 * (1+cos(3.14159* (V(IN) - {Threshold-Width/2})/{Width})) : 0 )
+ +{ VLO}
.ENDS 
*********
*SRC=Bufferx;Bufferx;Behavioral;Amplifiers;Buffer with smooth limits
*SYM=Bufferx
.SUBCKT Bufferx IN OUT { Threshold=1.2 Width=.3 VHI=3.5 VLO=.35 }
* Threshold is the Value V(IN) at wich the output reaches its mid point
* Width is the transition region width in input units
* VHI is the output hi limit
* VLO is the output low limit
*FAMILY = ANALOG
*FAMILY = ANALOG
B1 OUT 0 V={VHI-VLO}* ( V(IN)  < {Threshold - Width/2} ? 0 : v(IN) < {Threshold+Width/2} ? 
+  0.5 * (1-cos(3.14159* (V(IN) - {Threshold-Width/2})/{Width})) : 1 )
+ +{ VLO}
.ENDS 
************
*SRC=Hanning;Hanning;Behavioral;Function Block;Hanning window with taper
*SYM=Hanning
.SUBCKT Hanning IN OUT { Taper=.1 Delay=0 Period=??? }
* Period is the Time width of the window
* Delay is the Time delay before beginning the window
* Taper is the fraction of Period to apply the window on each side
*       so that twice that amount is distorted
*FAMILY = ANALOG
*FAMILY = ANALOG
B1 OUT 0 V=V(IN)* ( TIME  < {Delay} ? 0 :
+  TIME < {Delay + Taper*Period} ? 
+  0.5 * (1-cos(3.14159* (Time - {Delay})/{Period*Taper})) : 
+  TIME < {Delay + Period * (1-Taper)} ? 1 :
+  TIME < {Delay+Period} ?
+  0.5 * (1+cos(3.14159* (Time - {Delay + Period * (1-Taper)})/{Period*Taper}))
+  : 0 ) 
.ENDS 
************

